datasets/10k_Mayr_OG.csv
SMILES Labelled
"C1=CC=C([C:23]2=[CH:22][C:21](=[CH:20][C:41]3=[CH:42][CH:43]=[CH:44][CH:45]=[CH:46]3)[CH:32]=[C:33](C3=CC=CC=C3)[C:24]2=[O:25])C=C1.CC1=CC=[C:10]([B-:11]23[O:62]CC(C)(C[O:72]2)C[O:82]3)O1>>CC12C[O:62][B:11]([O:72]C1)[O:82]C2.CC1=CC=[C:10]([CH:20]([C:21]2=[CH:22][C:23](C3=CC=CC=C3)=[C:24]([O-:25])[C:33](C3=CC=CC=C3)=[CH:32]2)[C:41]2=[CH:42][CH:43]=[CH:44][CH:45]=[CH:46]2)O1 10,11=10,20;20,21=21,22;22,23=23,24;24,25=25"
CC(C)(C)[OH:10].CO[C:44]1=[CH:43][CH:42]=[C:41]([CH+:20][C:31]2=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]2)[CH:46]=[CH:45]1>>CO[C:44]1=[CH:43][CH:42]=[C:41]([CH:20]([OH+:10]C(C)(C)C)[C:31]2=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]2)[CH:46]=[CH:45]1 10=20
"CO[C:12]1=[C:13]([B-](F)(F)F)[S:14][CH:10]=[CH:11]1.C[C:44]1=[CH:43][CH:42]=[C:41](/[CH:20]=[CH:21]/[N+:22](=[O:23])[O-:33])[CH:46]=[CH:45]1>>CO[C:12]1=[CH:11][CH:10]([CH:20]([CH:21]=[N+:22]([O-:23])[O-:33])[C:41]2=[CH:42][CH:43]=[C:44](C)[CH:45]=[CH:46]2)[S+:14]=[C:13]1[B-](F)(F)F 10,11=10,20;12,13=11,12;14=13,14;20,21=21,22;22,23=23"
"C[Si](C)(C)[O:64][C:13]1=[CH:12][CH:11]=[CH:10][O:14]1.Cl[C:20]1=[CH:21][C:22](=[O:23])[C:30](Cl)=[CH:31][C:32]1=[O:33]>>C[Si](C)(C)[O:64][C:13]1=[O+:14][CH:10]([C:20]2(Cl)[CH:21]=[C:22]([O-:23])[C:30](Cl)=[CH:31][C:32]2=[O:33])[CH:11]=[CH:12]1 10,11=10,20;12,13=11,12;14=13,14;20,21=21,22;22,23=23"
"CC[O:33][C:31](/[CH:20]=[C:21](C)/[N:22]=[N:23]/[C:24](N)=[O:25])=[O:32].OCC[NH2:10]>>CC[O:33][C:31]([CH:20]([NH2+:10]CCO)[C:21](C)=[N:22][N:23]=[C:24](N)[O-:25])=[O:32] 10=20;20,21=21,22;22,23=23,24;24,25=25"
"CO[C:44]1=[CH:43][CH:42]=[C:41]([CH:20]=[C:21]2[CH:22]=[C:23](C3=CC=CC=C3)[C:24](=[O:25])[C:33](C3=CC=CC=C3)=[CH:32]2)[CH:46]=[CH:45]1.[NH2:10][NH:61][CH:62]=[O:63]>>CO[C:44]1=[CH:43][CH:42]=[C:41]([CH:20]([NH2+:10][NH:61][CH:62]=[O:63])[C:21]2=[CH:22][C:23](C3=CC=CC=C3)=[C:24]([O-:25])[C:33](C3=CC=CC=C3)=[CH:32]2)[CH:46]=[CH:45]1 10=20;20,21=21,22;22,23=23,24;24,25=25"
"CO[C:44]1=[CH:43][CH:42]=[C:41](/[CH:20]=[N:21]/[S:32](C2=CC=C(C)C=C2)(=[O:33])=[O:34])[CH:46]=[CH:45]1.C[Si:11](C)([H:10])[O:62][Si:63](C)(C)C>>CO[C:44]1=[CH:43][CH:42]=[C:41]([CH:20]([H:10])[N-:21][S:32](C2=CC=C(C)C=C2)(=[O:33])=[O:34])[CH:46]=[CH:45]1.C[Si+:11](C)[O:62][Si:63](C)(C)C 10,11=10,20;20,21=21"
"CC[O:62]/[C:11](=[C:10](\C1=CC=CC=C1)[C:71]#[N:72])[O-:12].CN1CC[C:20](=[O:21])CC1>>CC[O:62][C:11]([C:10](C1=CC=CC=C1)([C:20]1([O-:21])CCN(C)CC1)[C:71]#[N:72])=[O:12] 10,11=10,20;12=11,12;20,21=21"
"C[C:22]1=[N+:23](C)C2=C(C=CC=C2)/[C:21]1=[CH:20]\[C:31]1=[C:32](C)[N:33](C)[C:42]2=[C:41]1C=CC=C2.C[Si:62](C)(C)[C:11](=[CH2:10])[O:12]C1=CC=CC=C1>>C[C:22]1=[C:21]([CH:20]([CH2:10][C:11](=[O+:12]C2=CC=CC=C2)[Si:62](C)(C)C)[C:31]2=[C:32](C)[N:33](C)[C:42]3=[C:41]2C=CC=C3)C2=C(C=CC=C2)[N:23]1C 10,11=10,20;12=11,12;20,21=21,22;22,23=23"
"COC1=CC=C([N+]2=C([C:22](/[CH:21]=[CH:20]/[C:31]3=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]3)=[O:23])N(C)C=C2)C=C1.C[C:11]([H:10])(/[CH:12]=[CH:13]/C)/[CH:72]=[CH:73]/C>>COC1=CC=C([N+]2=C([C:22](=[CH:21][CH:20]([H:10])[C:31]3=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]3)[O-:23])N(C)C=C2)C=C1.C[C:11](=[CH:12][CH+:13]C)/[CH:72]=[CH:73]/C 10,11=10,20;12,13=11,12;20,21=21,22;22,23=23"
CN(C)[C:62]([C@@H:61]1CCC[NH:10]1)=[O:63].CN(CC(F)(F)F)[C:34]1=[CH:33][CH:32]=[C:31]([CH+:20][C:41]2=[CH:42][CH:43]=[C:44](N(C)CC(F)(F)F)[CH:45]=[CH:46]2)[CH:36]=[CH:35]1>>CN(CC(F)(F)F)[C:34]1=[CH:33][CH:32]=[C:31]([CH:20]([NH+:10]2CCC[C@H:61]2[C:62](N(C)C)=[O:63])[C:41]2=[CH:42][CH:43]=[C:44](N(C)CC(F)(F)F)[CH:45]=[CH:46]2)[CH:36]=[CH:35]1 10=20
C[O:49][C:46]1=[CH:45][CH:44]=[C:43]([C:42](=[CH:41][CH+:20][C:31]2=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]2)[C:53]2=[CH:54][CH:55]=[C:56]([O:59]C)[CH:57]=[CH:58]2)[CH:48]=[CH:47]1.F[C-:10]([S:61](C1=CC=CC=C1)(=[O:62])=[O:72])[S:81](C1=CC=CC=C1)(=[O:82])=[O:92]>>C[O:49][C:46]1=[CH:45][CH:44]=[C:43]([C:42](=[CH:41][CH:20]([C:10](F)([S:61](C2=CC=CC=C2)(=[O:62])=[O:72])[S:81](C2=CC=CC=C2)(=[O:82])=[O:92])[C:31]2=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]2)[C:53]2=[CH:54][CH:55]=[C:56]([O:59]C)[CH:57]=[CH:58]2)[CH:48]=[CH:47]1 10=20
"C[N:12]1CC[N:62](C)[C:11]1=[NH:10].[O+]#C[Cr-3:34]12345(C#[O+])(C#[O+])C6C1C2[C:33]3([C:32]#[C:31][C+:20]([C:41]1=[CH:42][CH:43]=[CH:44][CH:45]=[CH:46]1)[C:51]1=[CH:52][CH:53]=[CH:54][CH:55]=[CH:56]1)C4C65>>C[N+:12]1=[C:11]([NH:10][C:20]([C:31]#[C:32][C:33]23C4C5C6C7C2[Cr-3:34]65743(C#[O+])(C#[O+])C#[O+])([C:41]2=[CH:42][CH:43]=[CH:44][CH:45]=[CH:46]2)[C:51]2=[CH:52][CH:53]=[CH:54][CH:55]=[CH:56]2)[N:62](C)CC1 10,11=10,20;12=11,12"
"C[C:34]1=[CH:33][CH:32]=[C:31]([CH+:20][C:41]2=[CH:42][CH:43]=[C:44](C)[CH:45]=[CH:46]2)[CH:36]=[CH:35]1.C[Si:63](C)(C)[O:12][C:11](=[CH2:10])/[CH:72]=[CH:73]/[O:74]C>>C[C:34]1=[CH:33][CH:32]=[C:31]([CH:20]([CH2:10][C:11](=[O+:12][Si:63](C)(C)C)/[CH:72]=[CH:73]/[O:74]C)[C:41]2=[CH:42][CH:43]=[C:44](C)[CH:45]=[CH:46]2)[CH:36]=[CH:35]1 10,11=10,20;12=11,12"
